US07786115B2
N-Cyclopropyl-3-(7-hydroxy-1-oxoisoquinolin-2(1H)-yl)-4-methylbenzamide (0.56 g), 1-bromo-2-chloroethane (0.7 ml) and potassium carbonate (2.32 g) were stirred in DMF (20 ml) at 50° C. for 18 hours. The reaction mixture was diluted with ethyl acetate and washed with water (×5), brine (×2), dried (magnesium sulfate) and concentrated to give 3-[7-(2-chloroethoxy)-1-oxoisoquinolin-2(1H)-yl]-N-cyclopropyl-4-methylbenzamide as a cream coloured solid (0.57 g); NMR Spectrum: (DMSOd6) 0.56 (m, 2H), 0.69 (m, 2H), 2.10 (s, 3H), 2.86 (m, 1H), 4.00 (t, 2H), 4.40 (m, 2H), 6.73 (d, 1H), 7.23 (d, 1H), 7.47 (d, 1H), 7.49 (d, 1H), 7.68 (s, 1H), 7.73 (m, 2H), 7.88 (d, 1H), 8.44 (d, 1H); Mass Spectrum: M+Na+ 419.

reactant | N-Cyclopropyl-3-(7-hydroxy-1-oxoisoquinolin-2(1H)-yl)-4-methylbenzamide | 0.56 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C(C2=CC(=CC=C2C=C1)O)=O)=O | C20H18N2O3
reactant | 1-bromo-2-chloroethane | 0.7 ml | BrCCCl | C2H4BrCl
reactant | potassium carbonate | 2.32 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[7-(2-chloroethoxy)-1-oxoisoquinolin-2(1H)-yl]-N-cyclopropyl-4-methylbenzamide | ClCCOC1=CC=C2C=CN(C(C2=C1)=O)C=1C=C(C(=O)NC2CC2)C=CC1C | C22H21ClN2O3
